US06878722B2
Step 15IIe) A solution of 1-methoxy-methylcyclopropylsulfonylamine tert-butylcarbamate (1.14 g, 4.30 mmol) was dissolved in a solution of 50% TFA/CH2Cl2 (30 mL) and was stirred stirred at rt for 16 h. The solvent was removed in vacuo and the residue chromatographed over 80 g of SiO2 (eluting with 0% to 60% EtOAC/Hexanes to afford Example 15, 1-methoxymethylcyclopropylsulfonamide, as a white solid (0.55 g, 77% overall over two steps): 1H NMR (CDCl3) δ 0.95 (m, 2H), 1.44 (m, 2H), 3.36 (s, 3H), 3.65 (s, 2H), 4.85 (s, 2H); 13C NMR (CDCl3) δ 11.17, 40.87, 59.23, 74.80; LRMS m/z 183 (M++NH4).

reactant | 1-methoxy-methylcyclopropylsulfonylamine tert-butylcarbamate | 4.30 mmol, 1.14 g | C(C)(C)(C)NC(O)=O.COCNS(=O)(=O)C1CC1
reactant | TFA CH2Cl2 | 30 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 1-methoxymethylcyclopropylsulfonamide | COCC1(CC1)S(=O)(=O)N | C5H11NO3S
